US06864367B2
To a solution of 5-(4-bromo-2-formyl-N-methylanilino)pentanoic acid methylester (3.0 g) in dimethyl carbonate (40 ml), a solution of 28% sodium methoxide in methanol (2.3 g) was added at room temperature, and the resulting mixture was stirred at 50° C. for 2 hours. The mixture was allowed to cool to room temperature, and neutralized with 1N hydrochloric acid. After ethyl acetate extraction, the organic layer was washed with saturated salt water, dried over anhydrous sodium sulfate, and concentrated. The concentrate was purified by silica gel column chromatography (h-hexane/ethyl acetate=10/1) and the appropriate eluate was concentrated. The precipitated crystal was washed with IPE and collected by filtration. Drying under reduced pressure (40° C., 1 hour) gave yellow crystal of 8-bromo-1-methyl-1,2,3,4-tetrahydro-1-benzazocin-5-carboxylic acid methylester (0.9 g, yield 31%). mp. 88-89° C. 1H-NMR(CDCl3, δ, 300 MHz): 1.44(2H, m), 2.54(2H, t, J=6.2 Hz), 2.87(3H, s), 3.42(2H, t, J=5.6 Hz), 3.78(3H, s), 6.56(1H, d, J=6.0 Hz), 7.19-7.23(2H, m), 7.68(1H, s). Anal. Calcd for C14 H16 NO2 Br: C,54.21; H,5.20; N,4.52; Br,25.76. Found: C,54.19; H,5.29; N,4.37; Br,25.74. IR(KBr, cm−1): 1689, 1189.

reactant | 5-(4-bromo-2-formyl-N-methylanilino)pentanoic acid methylester | 3.0 g | COC(CCCCN(C1=C(C=C(C=C1)Br)C=O)C)=O | C14H18BrNO3
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethyl carbonate | 40 ml | C(OC)(OC)=O | C3H6O3
solvent | methanol | 2.3 g | CO | CH4O
product | 8-bromo-1-methyl-1,2,3,4-tetrahydro-1-benzazocin-5-carboxylic acid methylester | 0.9 g, yield 31% | COC(=O)C=1CCCN(C2=C(C1)C=C(C=C2)Br)C | C14H16BrNO2
